US08466282B2
Tert-butyl (3R,5S)-3-(hydroxymethyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-3-carboxylic acid (900 mg) and 1-methylmorpholine (274 μl) were dissolved in THF (5 ml), ethyl chlorocarbonate (230 μl) was added under ice-cooling and the mixture was stirred at 0° C. for 1 hr. Sodium tetrahydroborate (200 mg) and methanol (2 ml) were added to the reaction mixture, and the mixture was further stirred at room temperature for 14 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-90:10) was concentrated under reduced pressure to give the object product (704 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-3-carboxylic acid | 900 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1COCCOC)C1=C(C=CC=C1)C)C(=O)O | C29H43N5O7
reactant | 1-methylmorpholine | 274 μl | CN1CCOCC1 | C5H11NO
reactant | ethyl chlorocarbonate | 230 μl | C(OCC)(=O)Cl | C3H5ClO2
reactant | Sodium tetrahydroborate | 200 mg | [BH4-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | Tert-butyl (3R,5S)-3-(hydroxymethyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate | 704 mg | OC[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1COCCOC)C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C29H45N5O6
